US06048864
(a) 5-Benzyloxy-4-methoxy-2- {1-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]ethylideneamino}benzonitrile
Phosphorous oxychloride (0.81 ml, 0.0086 mol) was added to a solution of 1-acetyl-4-(4-morpholinecarbonyl)-1,4-diazepane (4.02 g, 0.0157 mol) in dichloromethane (25 ml) and the mixture stirred for 30 minutes at room temperature. A solution of 2-amino-5-benzyloxy-4-methoxybenzonitrile (2 g, 0.0078 mol) in dichloromethane (25 ml) was then added and the reaction stirred for 18 hours at 40° C. On cooling, the reaction mixture was poured carefully in to ice/water (100 ml) and extracted with dichloromethane (2×100 ml). The combined organic layers were dried (MgSO4), filtered and evaporated under reduced pressure to give a brown oil. The crude product was purified on silica gel eluting with a solvent gradient of methanol:dichloromethane (2:98 to 10:90 v/v) to give the subtitle compound. Rf 0.67 (0.880 aqueous ammonia:methanol:dichloromethane 1:7:92, v/v). MS m/z 492 (MH)+.

reactant | Phosphorous oxychloride | 0.0086 mol, 0.81 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-acetyl-4-(4-morpholinecarbonyl)-1,4-diazepane | 0.0157 mol, 4.02 g | C(C)(=O)N1CCN(CCC1)C(=O)N1CCOCC1 | C12H21N3O3
reactant | 2-amino-5-benzyloxy-4-methoxybenzonitrile | 0.0078 mol, 2 g | NC1=C(C#N)C=C(C(=C1)OC)OCC1=CC=CC=C1 | C15H14N2O2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 5-Benzyloxy-4-methoxy-2- {1-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]ethylideneamino}benzonitrile | C(C1=CC=CC=C1)OC=1C(=CC(=C(C#N)C1)N=C(C)N1CCN(CCC1)C(=O)N1CCOCC1)OC | C27H33N5O4
